US07964607B2
1-isopropyl-6-{(3S,4S)-4-methyl-1-[(5methylpyrazin-2-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 1-cyclopentyl-6-[(3,4-trans)-4-methyl-1-(pyridin-3-ylmethyl)pyrrolidin-3-yl]-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one and 5-methylpyrazine-2-carbaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 11.4 (brs, 1H), 8.49 (s, 1H), 8.44 (s, 1H), 7.99 (s, 1H), 5.00-4.93 (m, 1H), 4.00-3.97 (m, 1H), 3.78-3.67 (m, 1H), 3.33 (t, J=8.3 Hz, 1H), 3.04 (d, J=9.9 Hz, 1H), 2.85-2.82 (m, 1H), 2.65-2.61 (m, 1H), 2.49 (s, 3H), 2.48-2.41 (m, 1H), 2.13 (t, J=8.5 Hz, 1H), 1.46 (dd, J=11.6,6.6 Hz, 6H), 1.17 (d, J=7.05 Hz, 3H). MS: (M+H m/z=368.1).

reactant | 1-isopropyl-6-[(3S,4S)-4-methylpyrrolidin-3-yl]-1H-pyrazolo[3,4-d]pyrimidin-4(5H)-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CNC[C@H]2C | C13H19N5O
reactant | 5-methylpyrazine-2-carbaldehyde | CC=1N=CC(=NC1)C=O | C6H6N2O
product | 1-isopropyl-6-{(3S,4S)-4-methyl-1-[(5methylpyrazin-2-yl)methyl]pyrrolidin-3-yl}-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C(C)(C)N1N=CC2=C1N=C(NC2=O)[C@@H]2CN(C[C@H]2C)CC2=NC=C(N=C2)C | C19H25N7O
